US04446147
1(a) 2-Ethoxycarbonyl-2,5-dimethyl-4-hexenoic Acid Ethyl Ester
36.1 g of sodium (cut into small pieces) was introduced into a three-necked flask equipped with reflux condenser, dropping funnel, and agitator. To this mixture was added 800 ml of absolute ethanol so quickly that the solution continued to boil vigorously. The hot alcoholate solution was combined dropwise with 269.6 g of freshly distilled methylmalonic acid diethyl ester, the mixture was stirred for 1/2 hour at 60° C. and then 241.7 g of dimethylallyl bromide was also added dropwise thereto. After one hour of agitation under heating, the thus-precipitated sodium bromide was filtered off, the precipitate was washed, and the filtrate was concentrated. The remainder was taken up in ether, washed neutral with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated on a forced circulation evaporator. The evaporation residue was fractionated on an oil pump, yielding 266 g of the title compound, bp7 97°-112° C.

reactant | sodium | 36.1 g | [Na] | Na
reactant | methylmalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | dimethylallyl bromide | 241.7 g | CC(=CCBr)C | C5H9Br
reactant | ethanol | 800 ml | C(C)O | C2H6O
product | 2-Ethoxycarbonyl-2,5-dimethyl-4-hexenoic Acid Ethyl Ester | 266 g | C(C)OC(C(CC=C(C)C)(C)C(=O)OCC)=O | C13H22O4
